US06576631B1
N′-(4,6-Dimethoxypyrimidin-2-yl)-4-methylbenzene-1,2-diamine (Compound Number 3-6)
N-(4,6-dimethoxypyrimidin-2-yl)-4-methyl-2-nitroaniline (37.50 g) was dissolved in ethyl acetate (600 ml), and 10% palladium carbon (3.75 g) was added thereto. Stirring was carried out at room temperature under normal pressure in an atmosphere of hydrogen for 4 hours, followed by filtration. The solvent of the filtrate was distilled off to obtain 32.70 g of the desired product as a white powder (m.p. 128-129° C.).

reactant | N-(4,6-dimethoxypyrimidin-2-yl)-4-methyl-2-nitroaniline | 37.50 g | COC1=NC(=NC(=C1)OC)NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C13H14N4O4
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 3.75 g | [C].[Pd]
product | N′-(4,6-Dimethoxypyrimidin-2-yl)-4-methylbenzene-1,2-diamine | 32.70 g | COC1=NC(=NC(=C1)OC)NC=1C(=CC=C(C1)C)N | C13H16N4O2
